US03947445
N-tosylhydroxy-L-prolinol
A solution of 182.6 g (0.642 mole) N-tosylhydroxy-L-proline, made according to the procedure of P. S. Portoghese and A. A. Mikhail as reported in J. Org. Chem., 31, p 1059, 1966, in 800 ml dry THF was added over a 3 hour period to 1300 ml of 0.5 m diborane in tetrahydrofuran with stirring at 0°C. The reaction mixture solidified into a white opaque gel. This was broken up by hand, 800 ml of tetrahydrofuran was added, and the mixture was refluxed 2.5 hours with mechanical stirring. During this time, most of the solid redissolved. After 18 hours at ambient temperature, the reaction mixture was chilled, and 6N hydrochloric acid was carefully added until gas evolution ceased. One liter of water was added, and the homogeneous solution was diluted with chloroform until two phases formed. The aqueous phase was separated and extracted with additional chloroform. The combined organic phases were washed with water, dried with sodium sulfate, and evaporated in vacuo to leave a semi-solid residue (159.6 g) that gave 80.0 g (50.5%, melting point 130°-132° C), of N-tosylhydroxy-L-prolinol upon crystallization from ethyl acetate. Portoghese and Mikkail reported a melting point of 131°-133° C for the same compound made via the methyl ester of N-tosylhydroxy-L-lproline.

reactant | N-tosylhydroxy-L-proline | 0.642 mole, 182.6 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@](C(=O)O)(CCC1)O | C12H15NO5S
reactant | p 1059 | CC(=NNC(=O)C1=CC(=NC(=C1)Cl)Cl)C | C9H9Cl2N3O
reactant | diborane | B#B | B2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | THF | 800 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | water | One liter | O | H2O
product | N-tosylhydroxy-L-prolinol | 159.6 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@](CO)(CCC1)O | C12H17NO4S
